US07482484B2
Step a: 5-bromo-6-nitroindan-1-one
Fuming nitric acid (166 ml) is cooled to −15° C., and 5-bromoindan-1-one (25 g, 0.118 mol) is then added portionwise. After stirring for 4 hours 30 minutes at between −10° C. and −15° C., the reaction mass is poured into ice-cold water (1600 ml).

reactant | nitric acid | 166 ml | [N+](=O)(O)[O-] | HNO3
reactant | 5-bromoindan-1-one | 0.118 mol, 25 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
product | 5-bromo-6-nitroindan-1-one | BrC=1C=C2CCC(C2=CC1[N+](=O)[O-])=O | C9H6BrNO3
